US04388457
The carbon tetrachloride (44 g) and methylene chloride (210 g) fractions were combined and chromatographed on Sephadex LH-20, eluting with methanol. A portion of the eluate from the Sephadex column was repeatedly chromatographed on a silica gel column. Elution between volumes 1530-2000 ml gave phyllanthostatin I (0.24 g) as an amorphous solid. Purity was determined by high pressure liquid chromatography (HPLC) on a μ Porasil column eluting with a mixture of methylene chloride, methanol and water (97:3:0.2). Phyllanthostatin 1 had the following characteristics: mp 125°-126° C.; FD mass spec. m/e 805 (M+ +H); [α]D26 -3.6° (c 0.83, CHCl3); λmaxMeOH (log ε) 216 (4.19), 222 (4.12) and 277 (4.29); nm; IR (KBr) νmax 3450, 1755, 1740, 1710, 1640, 1452, 1380, 1310, 1245, 1170, 1075 and 770 cm-1. Additional PS active fraction (Fraction D, 2.9 g) was chromatographed on silica gel-60 (Lobos C column); development of the column with chloroform (600 ml), 1%--(500 ml), 2%--(500 ml) and 3% methanol-chloroform (350 ml), followed by elution with 3% methanol-chloroform between volumes 350-620 ml gave material (2.49 g) which was further chromatographed on silica gel-60 (3 Lobos B columns) using methylene chloride-methanol-water (97/3.0/0.1) as eluant. Elution between volumes 990-1340 ml gave phyllanthoside (0.60 g) as an amorphous solid with the following characteristics: mp 125°-127° C.; FD mass spec. m/e 805 (M+ +H); [α]D22 +16.9° (C=0.71, CHCl3); λmaxMeOH nm (log ε) 216 (4.25), 222 (4.19) and 277 (4.34); IR (KBr) νmax 3475, 1750, 1735, 1710, 1640, 1452, 1380, 1311, 1253, 1173, 1080 and 770 cm- 1. Comparison of spectral data [Kupchan, S. M., supra] with that recorded for authentic phyllanthoside indicated that both are identical. Unfortunately, no specimens of phyllanthoside or phyllanthocin remain from Kupchan's original separations. Finally, chromatography on reverse phase (RP-2) silica (70→20%) aqueous methanol gradient) afforded 0.10 g of phyllanthostatin 2 as a colorless amorphous solid: mp 134°-136° C.; FD mass spectrum m/e 821 (M+ +H); [α]D24 +9.33° (c 0.75, CHCl3); λmaxMeOH nm (log ε) 216 (4.28), 222 (4.21) and 278 (4.38); IR νmax 3470, 1750, 1730, 1710, 1640, 1452, 1380, 1311, 1257, 1171, 1075 and 770 cm-1. The chromatography was conducted as follows: The biologically active fraction (Fraction E, 2.1 g) was chromatographed on silica gel-60 (Lobos C column); development of the column with chloroform (500 ml), 1%--(500 ml), 2%--(500 ml), 3%--(800 ml) and 4% methanol-chloroform (730 ml), followed by elution with 4% methanol-chloroform between volumes 730-3430 ml gave material (1.43 g) which was further chromatographed on RP-2 silica gel-60 (100 g) using 70%--(800 ml) to 20%--aqueous methanol (800 ml) gradient elution. Elution between volumes 750-830 ml gave phyllanthostatin 2 (0.10 g) as an amorphous solid. Additional silica gel chromatography yielded 0.26 g of phyllanthostatin 3 as a colorless amorphous solid: mp 126°-130°; FD mass spectrum m/e 323 (M+ +H); [α]D26 +15.7° (c 0.76, CHCl3); λmaxMeOH nm (log ε), 216 (4.25), 222 (4.18) and 278 (4.35); IR (KBr) νmax 3450, 1755, 1730, 1700, 1640, 1455, 1380, 1311, 1258, 1175, 1070 and 772 cm-1. The chromatography was conducted as follows: The biologically active fraction (Fraction F, 2.69 g) was chromatographed on silica gel-60 (Lobos C column); development with chloroform, 1%--, 2%--, 3%--(500 ml each) and 4% methanol-chloroform (650 ml), followed by elution with 4% methanol-chloroform between volumes 650-950 ml, gave material (0.88 g) which was further chromatographed on RP-2 silica gel-60 (180 g) using 60%--(900 ml) to 20% aqueous methanol (900 ml) gradient elution. Elution between volumes 350-800 ml gave material (0.45 g) which was chromatographed on silica gel-60 (3 Lobos A columns). Development with chloroform, 1%--, 2%--(150 ml each) and 3%-methanol-chloroform (100 ml) and elution with 3% methanol-chloroform between volumes 100-200 ml gave phyllanthostatin 3 (0.26 g) as an amorphous solid.

reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | KBr | [K+].[Br-]
reactant | phyllanthoside | C[C@@H]1CO[C@]2(C[C@@H]1OC(=O)/C=C/C=3C=CC=CC3)[C@]4(CO4)[C@@H]5CC[C@@H](C[C@@H]5O2)C(=O)O[C@H]6[C@@H]([C@H]([C@@H]([C@H](O6)C)O)OC(=O)C)O[C@H]7[C@@H]([C@H]([C@@H]([C@H](O7)C)O)OC(=O)C)O | C40H52O17
reactant | phyllanthocin | CC1COC2(CC1OC(=O)/C=C/C3=CC=CC=C3)C4(CO4)C5CCC(CC5O2)C(=O)OC | C25H30O7
solvent | methanol | CO | CH4O
product | phyllanthostatin 2 | 0.10 g | CC1COC2(CC1OC(=O)/C=C/C3=CC=CC=C3)C4(CO4)C5CCC(CC5O2)C(=O)OC6C(C(C(C(O6)CO)O)OC(=O)C)OC7C(C(C(C(O7)C)O)OC(=O)C)O | C40H52O18
